US05849920
3-Chloro-6-fluoro-2-hydrazino-5-trifluoromethylpyridine
10.5 g (0.21 mol) of hydrazine hydrate were added to a stirred mixture of 21.8 g (0.1 mol) of 3-chloro-2,6-difluoro-5-trifluoromethylpyridine in 100 ml of propanol at 50° C. in the course of 15 minutes, and stirring was continued for 2 hours at the same temperature. After cooling, the batch was poured into 1.5 l of water and the precipitate which had separated out was filtered off with suction. It was taken up in ethyl acetate for purification and extracted using water. After drying and concentration, 20.9 g (91% of theory) of the title compound of m.p. 104°-106° C. were obtained; a sublimated sample melted at 111°-113° C.

reactant | hydrazine hydrate | 0.21 mol, 10.5 g | O.NN
reactant | 3-chloro-2,6-difluoro-5-trifluoromethylpyridine | 0.1 mol, 21.8 g | ClC=1C(=NC(=C(C1)C(F)(F)F)F)F | C6HClF5N
reactant | water | 1.5 l | O | H2O
solvent | propanol | 100 ml | C(CC)O | C3H8O
product | 3-Chloro-6-fluoro-2-hydrazino-5-trifluoromethylpyridine | ClC=1C(=NC(=C(C1)C(F)(F)F)F)NN | C6H4ClF4N3
